US08664220B2
Step 1: 2-Bromo-6-phenyl-pyrazine
Prepared according to the procedure described in Example 42, Step 2, using 2,6-dibromo-pyrazine and phenylboronic acid.

reactant | 2,6-dibromo-pyrazine | BrC1=NC(=CN=C1)Br | C4H2Br2N2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-Bromo-6-phenyl-pyrazine | BrC1=NC(=CN=C1)C1=CC=CC=C1 | C10H7BrN2
